US04048184
a. 1,5-Diphenylpyrazolo[1,5-a]pyrimidin-7(1H)-one
A mixture of 10 g. of 5-amino-2-phenylpyrazole (0.063 mol.), 12.1 g. of benzoylacetic acid ethyl ester (0.063 mol.) and 50 g. of polyphosphoric acid is heated at 110°-120° with stirring for 90 minutes. After cooling, 200 ml. of water and then concentrated aqueous ammonia is added under external cooling to adjust the mixture to pH 9. The collected 1,5-diphenylpyrazolo[1,5-a]pyrimidin-7(1H)-one is washed with water and dried at 70°, yield: 17 g. (94%); m.p. 194°-200°. A sample, recrystallized from absolute ethanol, melts at 205°-207°.

reactant | 5-amino-2-phenylpyrazole | 0.063 mol | NC=1C=CN(N1)C1=CC=CC=C1 | C9H9N3
reactant | benzoylacetic acid ethyl ester | 0.063 mol | C(C)OC(CC(C1=CC=CC=C1)=O)=O | C11H12O3
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | 1,5-Diphenylpyrazolo[1,5-a]pyrimidin-7(1H)-one | C1(=CC=CC=C1)N1C=CC=2N1C(C=C(N2)C2=CC=CC=C2)=O | C18H13N3O
